US06720320B2
(S)-4-(8-glycidyloxy-2H-chromen-3-ylcarbonyl)morpholine
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 4-(8-hydroxy-2H-chromen-3-ylcarbonyl)morpholine (3.3 g), potassium carbonate (3.5 g) and (S)-glycidyl nosylate (3.3 g), the title compound (3.1 g) was obtained as a brown oil.

reactant | 4-(8-hydroxy-2H-chromen-3-ylcarbonyl)morpholine | 3.3 g | OC=1C=CC=C2C=C(COC12)C(=O)N1CCOCC1 | C14H15NO4
reactant | potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-glycidyl nosylate | 3.3 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
product | (S)-4-(8-glycidyloxy-2H-chromen-3-ylcarbonyl)morpholine | 3.1 g | C([C@@H]1CO1)OC=1C=CC=C2C=C(COC12)C(=O)N1CCOCC1 | C17H19NO5
